US07923561B2
rac-N-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-5-yl]-4-fluoro-benzenesulfonamide
The title compound, MS: m/e=436.1 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonyl chloride and rac-2,3-dihydro-benzofuran-3-ylamine (CAS 109926-35-4).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | rac-2,3-dihydro-benzofuran-3-ylamine | O1CC(C2=C1C=CC=C2)N | C8H9NO
product | rac-N-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-5-yl]-4-fluoro-benzenesulfonamide | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=CC(=C1C=C2)NS(=O)(=O)C2=CC=C(C=C2)F | C23H18FN3O3S
